US04366315
A solution of trimethylsilyl 3-methyl-7-phenylacetamido-3-cephem-4-carboxylate-1-oxide was prepared by refluxing a mixture consisting of 3.60 mg (10.2 mmoles) of 3-methyl-7-phenylacetamido-3-cephem-4-carboxylic acid-1-oxide, 1.20 ml (5.7 mmoles) of hexamethyldisilazane and 25 ml of dichloromethane for 31/2 hours. The clear solution obtained was diluted to approximately 275 ml with dichloromethane and 0.2 g of amidosulfonic acid was added to it. After stirring for half an hour, the solution was cooled in an ice-bath and bromination was carried out in the usual way in one hour using 2.55 g (14.3 mmoles) of N-bromosuccinimide as the brominating agent.

reactant | 3-methyl-7-phenylacetamido-3-cephem-4-carboxylic acid-1-oxide | 10.2 mmoles, 3.60 mg | CC=1CS([C@H]2N(C1C(=O)O)C(C2NC(CC2=CC=CC=C2)=O)=O)=O | C16H16N2O5S
reactant | hexamethyldisilazane | 5.7 mmoles, 1.20 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | amidosulfonic acid | 0.2 g | NS(=O)(=O)O | H3NO3S
reactant | N-bromosuccinimide | 14.3 mmoles, 2.55 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | trimethylsilyl 3-methyl-7-phenylacetamido-3-cephem-4-carboxylate-1-oxide | CC=1CS([C@H]2N(C1C(=O)O[Si](C)(C)C)C(C2NC(CC2=CC=CC=C2)=O)=O)=O | C19H24N2O5SSi
